US05374731
g) 1-Benzyl-2,6-dimethyl-4-piperidone oxime
10 g of 1-benzyl-2,6-dimethyl-4-piperidone (prepared from benzylamine and ethyl crotonate in analogy to Bull. Chem. Soc. Japan 31 (1958) 418) are dissolved in 60 ml of methanol and this solution is added dropwise to a solution of 3.8 g of hydroxylamine hydrochloride and 4.5 g of sodium acetate in 150 ml of water. The mixture is stirred at 60° C. for 2 h and cooled to 0° C., and the oxime which has separated out is filtered off with suction. Drying results in 5.2 g of the title compound.

reactant | 1-benzyl-2,6-dimethyl-4-piperidone | 10 g | C(C1=CC=CC=C1)N1C(CC(CC1C)=O)C | C14H19NO
reactant | hydroxylamine hydrochloride | 3.8 g | Cl.NO
reactant | sodium acetate | 4.5 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 1-Benzyl-2,6-dimethyl-4-piperidone oxime | 5.2 g | C(C1=CC=CC=C1)N1C(CC(CC1C)=NO)C | C14H20N2O
